US05990150
N-(1-hexyl-4,6-dimethylindolin-5-yl)-2,2-dimethylpropanamide
5-Amino-4,6-dimethyl-1-hexylindoline (880 mg) was dissolved in chloroform (20 ml), and triethylamine (370 mg) and pivaloyl chloride (430 mg) were added, which was followed by stirring at room temperature for 1 hour. Water was added to the reaction mixture, and the mixture was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent:chloroform-methanol=1:0-50:1) and recrystallized from ethanol to give 650 mg of the title compound.

reactant | 5-Amino-4,6-dimethyl-1-hexylindoline | 880 mg | NC=1C(=C2CCN(C2=CC1C)CCCCCC)C | C16H26N2
reactant | triethylamine | 370 mg | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 430 mg | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | Water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-hexyl-4,6-dimethylindolin-5-yl)-2,2-dimethylpropanamide | 650 mg | C(CCCCC)N1CCC2=C(C(=C(C=C12)C)NC(C(C)(C)C)=O)C | C21H34N2O
